2169-01-30 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained on trach collar overnight.
   History obtained from Medical records
   Patient unable to provide history: Tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-29**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   RISS, simvastatin, requip, sinemet, lansoprazole, synthroid, ASA,
   colistin nebs, amikacin, albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-30**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 108 (94 - 108) bpm
   BP: 123/62(77) {95/51(61) - 126/72(82)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,493 mL
                                                                  1,166 mL
   PO:
             TF:
                                                                    883 mL
                                                                    622 mL
   IVF:
                                                                  2,430 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    690 mL
   Urine:
                                                                  1,330 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,163 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L), Paradoxical
   breathing.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   226 K/uL
   144 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.5 mEq/L
   68 mg/dL
   107 mEq/L
   144 mEq/L
   25.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
   WBC
   8.6
   8.0
   Hct
   28.0
   25.4
   Plt
   260
   226
   Cr
   2.1
   1.9
   TCO2
   30
   Glucose
   161
   144
   Other labs: PT / PTT / INR:14.1/39.9/1.2, ALT / AST:28/37, Alk Phos / T
   Bili:59/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: No new imaging today.
   Microbiology: OSH BCx (from PICC) GPC in clusters
   BCx (here):  Pending
   Sputum Cx:  GPC in cluster/pairs-chains.
   Assessment and Plan
   67 yo M complex medical history including multiple admissions over the
   last 5 months after suffering a SDH from a fall in [**Month (only) **].  Recently
   admitted for multi-drug resistent organism PNA.  Presenting now with
   fever and lethargy
   Fever:  Now growing GPC in clusters from sputum and blood cultures
     -Send surveillance blood cultures.
     -Attempt peripheral IV's and pull PICC. If unable to place p-iv, will
   place central line.
     -continue vancomycin/amikacin/colistin nebs
   Respiratory failure:  Seems to be laboring more this morning
     -Check CXR/ ABG
     -Put back on the vent in the context of new PNA and laboring.
     -Cont pulm toilet.  Depending on CXR, will consider bronchoscopy
   Altered mental status:  Seems related to likely new infection
     -Aspiration precautions
     -Infectious w/u as above.
   Renal Failure:  Cr slightly better now that when he was discharged
     -Renally dose meds and observe.
    FEN:  Advance TF to goal.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-1-30**] 01:57 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2169-1-28**] 09:52 PM
   20 Gauge - [**2169-1-28**] 09:57 PM
   Prophylaxis:
   DVT: (Fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code but prognosis is grave given co-morbidity and
   drug resistant organisms. Will discuss with wife today
   Disposition :ICU
   Total time spent: 45 minutes

2169-01-30 13:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   sputum sent [**1-26**] from [**Hospital **] rehab growing Staph Aureus, sensitivities
   pending (per ID, who called [**Hospital 3902**] micro lab where the specimen was
   sent)
   - started vanco in addition to the amikacin/colistin
   - spoke to pharmacy re: dosing of ABX given renal failure --> no
   changes recommended
   - family wants FULL CODE
   - remains on trach collar (FIO2 35%)
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-29**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-30**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 98 (94 - 108) bpm
   BP: 98/57(67) {95/52(62) - 126/72(82)} mmHg
   RR: 17 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,493 mL
                                                                  1,494 mL
   PO:
             TF:
                                                                    883 mL
                                                                    783 mL
   IVF:
                                                                  2,430 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    795 mL
   Urine:
                                                                  1,330 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,163 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.29/65/101/30/2
   Ve: 12 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, Diastolic)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L), Paradoxical
   breathing.
   Abdominal: Soft, Non-tender/non-distended, Bowel sounds present, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds
   Labs / Radiology
   226 K/uL
   8.4 g/dL
   144 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.5 mEq/L
   68 mg/dL
   107 mEq/L
   144 mEq/L
   25.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
   WBC
   8.6
   8.0
   Hct
   28.0
   25.4
   Plt
   260
   226
   Cr
   2.1
   1.9
   TCO2
   30
   33
   Glucose
   161
   144
   Other labs: PT / PTT / INR:14.1/39.9/1.2, ALT / AST:28/37, Alk Phos / T
   Bili:59/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   67 yoM with MMP most notably MDR PNA with acinetobacter/pseudomonas
   admitted with fever and AMS now with GPC Bacteremia
   .
   #.  GPC Bacteremia - Pt found to have GPC in blood from rehab blood
   cultures, now on vancomycin, concern for line related infection
   - continue vancomycin
 dose by level
   - monitor surveillence cultures
   - Pull PICC, would prefer IV access if adequate, otherwise will place
   new cvl
   .
   # MDR PNA:
   - continue vancomycin S.aureus in sputum
   -- cont amikacin 750 mg QOD; colistin 75 mg inhaled Q8 hours preceded
   by albuterol nebs
   -- will check amikacin level today
   -- appreciate ID recs
   .
   #. MS: change in MS today; head CT negative for acute processes.  ABG
   nml.  Likely [**2-6**] stressors of infection.  ? some effect of colistin.
   Na normal.
   -- cont to trend
   .
   #. ACUTE RENAL FAILURE, RESOLVING: thought to be AIN from colistin from
   last admission; Cr slowly improving (2.1 now; 2.8 on discharge on
   [**1-24**]).  UOP good.
   -- renally dose meds appropriately with changing GFR
   .
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   .
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
   #. ANEMIA:  Chronic per records; guaiac negative last admission.
   Somewhat up from recent discharge.
   -- cont to trend
   -- will send iron studies, per Dr.[**Name (NI) 4245**] note from [**1-27**]
   -- maintain T&S
   .
   #. DIABETES:
   -- cont Glargine 34 units QHS + SSI
   .
   #. NUTRITION: has PEG tube.
   -- will place on gentle IVF for insensible losses overnight
   -- Nutren 2.0 TF at 60 ml/hr
   .
   #. PPX:
   -- DVT PPX with fondaparenox given h/o HIT
   -- PO lansoprazole
   -- bowel regimen
   #. ACCESS: PICC from prior admission (placed [**1-24**]) - will DC and place
   peripherals
   .
   #. CODE: confirmed with wife [**Name (NI) 625**], HCP, that patient is full code
   .
   #. DISPO: ICU for further tx and care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-1-30**] 01:57 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-1-28**] 09:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU level of care

2169-01-31 07:28:00 Physician Resident Progress Note
TITLE: Resident Progress Note- MICU Green
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2169-1-30**] 11:34 AM
 BLOOD CULTURED - At [**2169-1-30**] 05:30 PM
 URINE CULTURE - At [**2169-1-30**] 05:30 PM
 BLOOD CULTURED - At [**2169-1-30**] 05:45 PM
 PICC LINE - STOP [**2169-1-30**] 09:03 PM
 MULTI LUMEN - START [**2169-1-31**] 12:45 AM
 FEVER - 101.2
F - [**2169-1-30**] 08:00 PM
   Spiked and was cultured.  PICC removed.  Pt developed hypotension (MAP
   in 50s) -- only acccess at that time was 20g PIV, therefore R
   subclavian TLC was placed.  Blood pressure then recovered without
   intervention.
   Family meeting was held with ICU team and PCP.  [**Name10 (NameIs) **] expressed desire
   for full aggressive care but is DNR.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-30**] 08:14 PM
   Amikacin - [**2169-1-30**] 09:37 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-31**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 95 (90 - 110) bpm
   BP: 92/53(60) {82/44(55) - 127/71(84)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  2,903 mL
                                                                    669 mL
   PO:
   TF:
                                                                  1,433 mL
                                                                    564 mL
   IVF:
                                                                    790 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                    320 mL
   Urine:
                                                                  1,413 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 545 (503 - 550) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 39
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.38/54/98.[**Numeric Identifier 20**]/30/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 327
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, Diastolic)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L), Paradoxical
   breathing.
   Abdominal: Soft, Non-tender/non-distended, Bowel sounds present, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Not as attentive today, not following commands
   Labs / Radiology
   213 K/uL
   8.2 g/dL
   136 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.3 mEq/L
   68 mg/dL
   108 mEq/L
   147 mEq/L
   24.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
   WBC
   8.6
   8.0
   9.3
   Hct
   28.0
   25.4
   24.5
   Plt
   [**Telephone/Fax (3) 4284**]
   Cr
   2.1
   1.9
   1.9
   TCO2
   30
   33
   32
   33
   Glucose
   161
   144
   136
   Other labs: PT / PTT / INR:14.1/40.4/1.2, ALT / AST:28/37, Alk Phos / T
   Bili:59/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Vanco level 27.8
   [**2169-1-30**] Sputum: heavy growth SA and two types of GNR
s not yet
   speciated
   [1][**2169-1-31**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2169-1-30**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [3][**2169-1-30**]
   CATHETER TIP-IV
   WOUND CULTURE-PRELIMINARY
   INPATIENT
   [4][**2169-1-30**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2169-1-30**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2169-1-30**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [7][**2169-1-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [8][**2169-1-29**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +, GRAM
   NEGATIVE ROD(S), GRAM NEGATIVE ROD #2}
   INPATIENT
   [9][**2169-1-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [10][**2169-1-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [11][**2169-1-28**]
   URINE
   URINE CULTURE-FINAL
   Assessment and Plan
   67 yoM with MMP most notably MDR PNA with acinetobacter/pseudomonas
   admitted with fever and AMS now with GPC Bacteremia
   # Respiratory Failure: patient with trach, was transitioned to a rate
   after SBT with some distress yesterday, now back on CPAP/PS and
   comfortable.
   - SBT today
   .
   #.  Staph Bacteremia - Pt found to have GPC in blood from rehab blood
   cultures, and then positive cultures from picc line, now on vancomycin.
   Picc was pulled yesterday, received triple lumen R subclavian line
   overnight in the setting of hypotensive episode and fevers.
   - continue vancomycin
 dose by level
   - monitor surveillence cultures
   - TTE to evaluate for endocarditis
   .
   # MDR PNA:
   -- continue vancomycin S.aureus in sputum
   -- cont amikacin 750 mg QOD; colistin 75 mg inhaled Q8 hours preceded
   by albuterol nebs
 last day of these abx is tomorrow
   -- appreciate ID recs
   .
   #. MS: continues to be poor, likely toxic/metabolic encephalopathy in
   the setting of infection; head CT negative for acute processes.  ABG
   nml.  Likely [**2-6**] stressors of infection.
   -- cont to monitor
   .
   #. ACUTE RENAL FAILURE, RESOLVING: thought to be AIN from colistin from
   last admission; Cr slowly improving (2.1 now; 2.8 on discharge on
   [**1-24**]).  UOP good.
   -- renally dose meds appropriately with changing GFR
   .
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   .
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
   #. ANEMIA:  Chronic per records; guaiac negative last admission.
   Somewhat up from recent discharge.
   -- cont to trend
   -- iron studies indicate inflammatory state and borderline iron
   deficiency
   -- maintain T&S
   .
   #. DIABETES:
   -- cont Glargine 34 units QHS + SSI
   .
   #. NUTRITION: has PEG tube.
   -- will place on gentle IVF for insensible losses overnight
   -- Nutren 2.0 TF at 60 ml/hr
   .
   #. PPX:
   -- DVT PPX with fondaparenox given h/o HIT
   -- PO lansoprazole
   -- bowel regimen
   #. ACCESS: PICC from prior admission (placed [**1-24**]) - will DC and place
   peripherals
   .
   #. CODE: confirmed with wife [**Name (NI) 625**], HCP, that patient is DNR; pressors
   okay.
   .
   #. DISPO: ICU for further tx and care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-31**] 02:06 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-30**] 04:00 PM
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: fondaparinoux
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);

2169-01-31 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever to 101.2 yesterday.  Developed hypotension-->central line
   placed.  Hypotension resolved without intervention.
   Remained on vent overnight.
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-30**] 08:14 PM
   Amikacin - [**2169-1-30**] 09:37 PM
   Infusions:
   Other ICU medications:
   Other medications:
   RISS, simvastatin, requip, lansoprazole, synthroid, fondaparinux,
   sinemet, ASA, Colistin nebs, peridex, albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-31**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 107 (90 - 110) bpm
   BP: 111/56(69) {82/44(55) - 128/71(84)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 7 (6 - 7)mmHg
   Total In:
                                                                  2,903 mL
                                                                    813 mL
   PO:
   TF:
                                                                  1,433 mL
                                                                    644 mL
   IVF:
                                                                    790 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                    465 mL
   Urine:
                                                                  1,413 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 39
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.38/54/98.[**Numeric Identifier 20**]/30/4
   Ve: 12.1 L/min
   PaO2 / FiO2: 327
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar,
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   213 K/uL
   136 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.3 mEq/L
   68 mg/dL
   108 mEq/L
   147 mEq/L
   24.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
   WBC
   8.6
   8.0
   9.3
   Hct
   28.0
   25.4
   24.5
   Plt
   [**Telephone/Fax (3) 4284**]
   Cr
   2.1
   1.9
   1.9
   TCO2
   30
   33
   32
   33
   Glucose
   161
   144
   136
   Other labs: PT / PTT / INR:14.1/40.4/1.2, ALT / AST:28/37, Alk Phos / T
   Bili:59/0.2, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Vanc level 27
   Imaging: CXR: Trach, CVC in place.  Elevated R hemidiaphragm.  No other
   change from yesteday.
   Microbiology: Sputum Cx:  Staph and GNR (not speciated)
   OSH BCx:  GPC in clusters
   UCx:  pending
   Surv BCx:  Pending.
   Assessment and Plan
   67 yo M complex medical history including multiple admissions over the
   last 5 months after suffering a SDH from a fall in [**Month (only) **].  Recently
   admitted for multi-drug resistent organism PNA.  Presenting now with
   fever and lethargy
   Fever:  Now growing GPC in clusters from sputum and blood cultures
     -Follow up surveillance blood cultures.
     -PICC line out, unforuntately needed CVC placed overnight.
     -continue vancomycin/amikacin/colistin nebs.  Follow up sensi's from
   staph.  Last dose of amikacin/colistin is tomorrow.  Hold vancomycin
   dose today.
     -Check TTE
    Respiratory failure:  More comfortable on the ventilator today.
    -SBT today.
     -Cont pulm toilet.
    Altered mental status:  Seems related to likely new infection in the
   context of overall illness.
      -Infectious w/u and treatment as above.
    Renal Failure:  Cr slightly better now that when he was discharged
     -Renally dose meds and observe.
    FEN:  Advance TF to goal.
   Code:   After discussion with patient's wife and daughter [**Name (NI) 284**], they
   wish him to be DNR.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2169-1-30**] 04:00 PM
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2169-02-01 07:52:00 Physician Resident Progress Note
Chief Complaint: MDR Pneumonia
   24 Hour Events:
 FEVER - 101.6
F - [**2169-2-1**] 12:00 AM
   TTE planned to eval for endocarditis
   MRSA in sputum, Continues on Vanc/Amikacin/Colistin
   Final Micro data from Heb Reb obtained
 Blood Cx [**1-28**]
 2 spec. Coag
   neg Staph in
 bottles
   Sputum [**1-28**] MRSA (fax placed in chart)
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-30**] 08:14 PM
   Amikacin - [**2169-1-30**] 09:37 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-1**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.6
C (101.5
   HR: 109 (102 - 118) bpm
   BP: 120/71(82) {90/40(50) - 128/71(82)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 2 (0 - 13)mmHg
   Total In:
                                                                  2,537 mL
                                                                    844 mL
   PO:
   TF:
                                                                  1,812 mL
                                                                    587 mL
   IVF:
                                                                    240 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    260 mL
   Urine:
                                                                  1,180 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 513 (423 - 565) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, Diastolic)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L), Paradoxical
   breathing.
   Abdominal: Soft, Non-tender/non-distended, Bowel sounds present, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Not attentive today, not following commands
   Labs / Radiology
   216 K/uL
   8.6 g/dL
   143 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.3 mEq/L
   73 mg/dL
   110 mEq/L
   147 mEq/L
   25.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
   WBC
   8.6
   8.0
   9.3
   8.8
   Hct
   28.0
   25.4
   24.5
   25.4
   Plt
   [**Telephone/Fax (3) 4313**]16
   Cr
   2.1
   1.9
   1.9
   1.9
   TCO2
   30
   33
   32
   33
   Glucose
   161
   144
   136
   143
   Other labs: PT / PTT / INR:14.5/37.4/1.3, ALT / AST:28/37, Alk Phos / T
   Bili:59/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Caritas Blood Cultures
   Blood Cx [**1-28**]
 Coag neg Staph 2 spec
   Sputum Cx [**1-28**] - MRSA
   Microbiology: [**2169-1-30**] 5:08 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2169-1-31**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**2169-1-31**] 4:20 am BLOOD CULTURE      Source: Line-central.
      Blood Culture, Routine (Pending):
   [**2169-1-30**] 9:05 pm CATHETER TIP-IV      Source: picc.
      WOUND CULTURE (Preliminary):    No significant growth
   [**2169-1-29**] 3:50 am SPUTUM      Source: Expectorated.
                               **FINAL REPORT [**2169-1-31**]**
      GRAM STAIN (Final [**2169-1-29**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CHAINS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2169-1-31**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         STAPH AUREUS COAG +.    HEAVY GROWTH.
            Please contact the Microbiology Laboratory ([**7-/2466**])
   immediately if
            sensitivity to clindamycin is required on this patient's
   isolate.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations.
            Rifampin should not be used alone for therapy.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   PENICILLIN G---------- =>0.5 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
   [**2169-1-29**] 1:55 pm STOOL     CONSISTENCY: NOT APPLICABLE
         Source: Stool.
                            **FINAL REPORT [**2169-1-30**]**[**2169-1-29**] 3:50 am SPUTUM
  Source: Expectorated.
                            **FINAL REPORT [**2169-1-31**]**
   GRAM STAIN (Final [**2169-1-29**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Final [**2169-1-31**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      Due to mixed bacterial types ( >= 3 colony types) an abbreviated
      workup will be performed appropriate to the isolates recovered from
      this site.
      STAPH AUREUS COAG +.    HEAVY GROWTH.
         Please contact the Microbiology Laboratory ([**7-/2466**]) immediately if
         sensitivity to clindamycin is required on this patient's isolate.
         Oxacillin RESISTANT Staphylococci MUST be reported as also
         RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations.
         Rifampin should not be used alone for therapy.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2169-1-30**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   Assessment and Plan
   67 yoM with MMP most notably MDR PNA with acinetobacter/pseudomonas
   admitted with fever and AMS now MRSA PNA
   .
   # MDR PNA:  Pt with hx of resistant acinetobacter/pseudomans now with
   sputum + for MRSA
   -- CXR with interval worsening
   -- continue vancomycin for MRSA coverage
   -- cont amikacin 750 mg QOD; colistin 75 mg inhaled Q8 hours preceded
   by albuterol nebs
 appreciate ID recs will hold on DCing previously
   defined (21 day course started on [**1-9**]) for now given clinical worsening
   and new GNR in sputum of [**1-29**]
   -- appreciate ID recs, if evidence of clinical worsening would prefer
   zosyn for further broad spectrum coverage
   .
   # Respiratory Failure: patient with trach, was transitioned to a rate
   after SBT with some distress on [**1-31**], now back on CPAP/PS and
   comfortable.
   - will maintain on vent for now given resp distress on trach mask and
   rapid worsening of CXR
   .
   #.  Coag Neg Staph + Blood Cx
 1 Unclear significance however
   bottles positive with 2 spec. from PICC line.  PICC now Dc
d. R
   subclavian placed in the setting of hypotensive episode and fevers.
   - continue vancomycin
 dose by level
   - monitor surveillence cultures
   - TTE to evaluate for endocarditis
   .
   # Hypernatremia
 likely due to increased insensible losses, increase
   free water flushes in TF and will give maintenance IVF
   #. MS: continues to be poor, likely toxic/metabolic encephalopathy in
   the setting of infection; head CT negative for acute processes.  ABG
   nml.  Likely [**2-6**] stressors of infection.
   -- cont to monitor
   .
   #. ACUTE RENAL FAILURE, RESOLVING: thought to be AIN from colistin from
   last admission; Cr slowly improving (2.1 now; 2.8 on discharge on
   [**1-24**]).  UOP good.
   -- renally dose meds appropriately with changing GFR
   .
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   .
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
   #. ANEMIA:  Chronic per records; guaiac negative last admission.
   Somewhat up from recent discharge.
   -- cont to trend
   -- iron studies indicate inflammatory state and borderline iron
   deficiency
   -- maintain T&S
   .
   #. DIABETES:
   -- cont Glargine 34 units QHS + SSI
   .
   #. NUTRITION: has PEG tube.
   -- will place on gentle IVF for insensible losses overnight
   -- Nutren 2.0 TF at 60 ml/hr
   --increase free water flushes
   .
   #. PPX:
   -- DVT PPX with fondaparenox given h/o HIT
   -- PO lansoprazole
   -- bowel regimen
   .
   #. ACCESS: PICC from prior admission (placed [**1-24**]) - DC'd and Right
   subclavian placed
   .
   #. CODE: confirmed with wife [**Name (NI) 625**], HCP, that patient is DNR; pressors
   okay.
   .
   #. DISPO: ICU for further tx and care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-1**] 03:30 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-30**] 04:00 PM
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR, pressor ok
   Disposition: ICU

2169-02-01 11:27:00 Physician Attending Progress Note
Chief Complaint: MDR Acinetobactor and Pseudomonas pneumoni in the
   past, now with mrsa bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2169-2-1**] 12:00 AM
   mrsa bacteremia and pneumonia
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-30**] 08:14 PM
   Amikacin - [**2169-1-30**] 09:37 PM
   Infusions:
   Other ICU medications:
   Other medications:
   colistin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-1**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36
C (96.8
   HR: 113 (102 - 129) bpm
   BP: 103/55(64) {90/40(50) - 122/71(82)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 1 (0 - 13)mmHg
   Total In:
                                                                  2,537 mL
                                                                  1,375 mL
   PO:
   TF:
                                                                  1,812 mL
                                                                    903 mL
   IVF:
                                                                    240 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    585 mL
   Urine:
                                                                  1,180 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    790 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 534 (423 - 534) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 10.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   216 K/uL
   143 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.3 mEq/L
   73 mg/dL
   110 mEq/L
   147 mEq/L
   25.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
   WBC
   8.6
   8.0
   9.3
   8.8
   Hct
   28.0
   25.4
   24.5
   25.4
   Plt
   [**Telephone/Fax (3) 4313**]16
   Cr
   2.1
   1.9
   1.9
   1.9
   TCO2
   30
   33
   32
   33
   Glucose
   161
   144
   136
   143
   Other labs: PT / PTT / INR:14.5/37.4/1.3, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: bibasilar infiltrates
   Microbiology: spu [**1-30**]: gpcocci
   bcx: ngtd
   picc tip 1/.26: neg
   spu: [**1-29**]: mrsa
   cdiff: neg
   rehab cxs: mrsa in blood
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 yo M complex medical history including multiple admissions over the
   last 5 months after suffering a SDH from a fall in [**Month (only) **].  Recently
   admitted for multi-drug resistent organism PNA.  Presenting now with
   fever and lethargy, nrsa bacteremia and pneumonia, picc line out.
   MRSA bacteremia and pneumonia:
   Vanc level high, redose
   Check TTE to r/o endocarditis, PR normal.
   Continue amikacin/colistin nebs. Last dose of amikacin/colistin is
   tomorrow.  [**Month (only) 8**] need bronch to reassess airway and repeat BA: given
   diffuse infiltrates
    Respiratory failure:  More comfortable on the ventilator today.
    -SBT today. But no plans for liberating from ventilator till mental
   status us better
     -Cont pulm toilet.
    Altered mental status:  Seems related to likely new infection in the
   context of overall illness.
      -Infectious w/u and treatment as above.
   Na: add free water flush for hypernatremia.
    Renal Failure:  at baseline
    FEN:  Advance TF to goal.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-1**] 09:05 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:  35min
   Patient is critically ill

2169-02-02 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.8
F - [**2169-2-1**] 08:00 AM
   ID consult: Vanc, amikacin, colistin
   TTE: veggie on aortic valve, hx of enterococcal endocarditis. ID says,
   treat him for the course.
   Viral screen neg
   Patient unable to provide history: Obtunded
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-30**] 09:37 PM
   Vancomycin - [**2169-2-2**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-2**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.1
   HR: 101 (89 - 114) bpm
   BP: 134/61(76) {93/46(52) - 144/81(89)} mmHg
   RR: 20 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 10 (-1 - 15)mmHg
   Total In:
                                                                  3,956 mL
                                                                    662 mL
   PO:
   TF:
                                                                  2,018 mL
                                                                    382 mL
   IVF:
                                                                  1,337 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                  1,240 mL
   Urine:
                                                                  1,460 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,496 mL
                                                                   -578 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 464 (440 - 483) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 40
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 11.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   214 K/uL
   134 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   68 mg/dL
   111 mEq/L
   146 mEq/L
   24.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2169-1-28**]  10:07 PM
                             [**2169-1-29**]  03:23 AM
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
   WBC
   8.6
   8.0
   9.3
   8.8
   11.7
   Hct
   28.0
   25.4
   24.5
   25.4
   24.5
   Plt
   [**Telephone/Fax (3) 4313**]16
   214
   Cr
   2.1
   1.9
   1.9
   1.9
   2.0
   1.9
   TCO2
   30
   33
   32
   33
   Glucose
   161
   144
   136
   143
   144
   134
   Other labs: PT / PTT / INR:14.7/42.4/1.3, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: LLL better, RLL same, mild pulm edema
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 yo M complex medical history including multiple admissions over the
   last 5 months after suffering a SDH from a fall in [**Month (only) **].  Recently
   admitted for multi-drug resistent organism PNA.  Presenting now with
   fever and lethargy,cnst bacteremia and mrsa + GNR pneumonia, picc line
   out, TTE shows possible aortic veggies. On Vanc, colistin inhaler,
   amikacin. Cards doesnt think he is a candidate for TEE.
   Ongoing fever, leukocytosis but subsequent blood cxs neg
   Pneumonia: Follow sputum cxs, continue abx, follow fever curve. CT
   chest if fever doesnt resolve. ? bronch.
   CNST acteremia: subsequent cxs neg. Committed to endocarditis duration.
   Follow fever curve and EKG.
   Respiratory failure:  Cont pulm toilet and PS 5/5.
   hyper Na: add free water flush for hypernatremia.
    Renal Failure:  at baseline
     FEN:  Advance TF to goal.
   Daughter [**Name (NI) 284**] updated today.
   Rest per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-2**] 10:17 AM 75 mL/hour
   Glycemic Control:  RISS, glargine
   Lines: R subclavian
put in after cxs became neg.
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2169-02-03 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-2-2**] 11:54 AM
 URINE CULTURE - At [**2169-2-2**] 12:36 PM
 FEVER - 102.1
F - [**2169-2-2**] 03:00 PM
   Given mucomyst in preparation for pan scan given continued fevers
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-2**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-3**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.7
C (98.1
   HR: 112 (94 - 117) bpm
   BP: 121/63(76) {90/49(57) - 146/89(103)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 7 (-1 - 15)mmHg
   Total In:
                                                                  2,410 mL
                                                                  1,520 mL
   PO:
   TF:
                                                                  1,333 mL
                                                                    566 mL
   IVF:
                                                                    567 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                    685 mL
   Urine:
                                                                  2,125 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (443 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: RRR I/VI SM at LLSB
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L),
   Abdominal: Soft, Non-tender/non-distended, Bowel sounds present, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  No(t) Rash: , No(t) Jaundice
   Neurologic: Not attentive today, not following commands, but opening
   eyes to voice.
   Labs / Radiology
   207 K/uL
   8.1 g/dL
   133 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   58 mg/dL
   110 mEq/L
   147 mEq/L
   24.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
   WBC
   8.0
   9.3
   8.8
   11.7
   9.4
   Hct
   25.4
   24.5
   25.4
   24.5
   24.1
   Plt
   [**Telephone/Fax (3) 4351**]14
   207
   Cr
   1.9
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   TCO2
   33
   32
   33
   Glucose
   144
   136
   143
   144
   134
   146
   133
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging:
   CXR [**2169-2-3**]: FINDINGS: As compared to the previous examination, the
   monitoring and support
   devices are in unchanged position. Unchanged bilateral calcified
   pleural
   plaques. Unchanged moderate cardiomegaly and bilateral mild parenchymal
   opacities. No newly occurred focal parenchymal opacities, no signs
   indicative
   of overhydration.
   Micro:
   [1][**2169-2-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [2][**2169-2-2**]
   URINE
   URINE CULTURE-PENDING
   [3][**2169-2-2**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2169-2-1**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PRELIMINARY; Rapid Respiratory Viral Antigen
   Test-FINAL
   [5][**2169-1-31**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [6][**2169-1-30**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {STAPH AUREUS COAG +}
   [7][**2169-1-30**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   [8][**2169-1-30**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [9][**2169-1-30**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [10][**2169-1-30**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [11][**2169-1-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [12][**2169-1-29**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +, GRAM
   NEGATIVE ROD(S), GRAM NEGATIVE ROD #2}
SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
   [13][**2169-1-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [14][**2169-1-28**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [15][**2169-1-28**]
   URINE
   URINE CULTURE-FINAL
   Assessment and Plan
   67 yoM with MMP most notably MDR PNA with acinetobacter/pseudomonas
   admitted with fever and AMS now MRSA PNA
   .
   # MDR PNA:  Pt with hx of resistant acinetobacter/pseudomonas with
   sputum + for MRSA
   -- CXR continues with infiltrate
   -- continue vancomycin for MRSA coverage
   -- cont amikacin 750 mg QOD; colistin 75 mg inhaled Q8 hours preceded
   by albuterol nebs
 appreciate ID recs will hold on DCing previously
   defined (21 day course started on [**1-9**]) for now given clinical worsening
   and new GNR in sputum of [**1-29**]
 will cont. awaiting sensitivities
   -- appreciate ID recs, if evidence of clinical worsening would prefer
   zosyn for further broad spectrum coverage, will start today per their
   recs
   .
   # Respiratory Failure: patient with trach, was transitioned to a rate
   after SBT with some distress on [**1-31**], now back on CPAP/PS and
   comfortable.
   - will maintain on vent for now given resp distress on trach mask and
   rapid worsening of CXR
   # Persistent Fevers
 unclear if this is secondary to ongoing known
   pneumonia or if there is another source. Will non-con torso CT him to
   look for other sources.
   .
   #.  Coag Neg Staph + Blood Cx
 1 Unclear significance however
   bottles positive with 2 spec. from PICC line.  PICC now Dc
d. R
   subclavian placed in the setting of hypotensive episode and fevers.
   - continue vancomycin
   - monitor surveillence cultures
   - TTE with question of aortic valve vegetation
  compared with old
   TTE, looks similar. Will likely receive course long enough to treat
   endocarditis regardless, so will not pursue TEE. Monitor EKG
s for
   evidence of PR prolongation.
   .
   # ? Aortic valve vegetation
 visualized on TTE of [**2-2**]
 pt with hx of
   previous endocarditis; see above discussion.
   - Continue Abx as above
   .
   # Hypernatremia
 likely due to increased insensible losses, increase
   free water flushes in TF and will give maintenance IVF
   #. MS: continues to be poor, likely toxic/metabolic encephalopathy in
   the setting of infection; head CT negative for acute processes.  ABG
   nml.  Likely [**2-6**] stressors of infection.
   -- cont to monitor
   .
   #. ACUTE RENAL FAILURE, RESOLVING: thought to be AIN from colistin from
   last admission; Cr slowly improving (2.1 now; 2.8 on discharge on
   [**1-24**]).  UOP good.
   -- renally dose meds appropriately with changing GFR
   .
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   .
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
   #. ANEMIA:  Chronic per records; guaiac negative last admission.
   Somewhat up from recent discharge.
   -- cont to trend
   -- iron studies indicate inflammatory state and borderline iron
   deficiency
   -- maintain T&S
   .
   #. DIABETES:
   -- cont Glargine 34 units QHS + SSI
   .
   #. NUTRITION: has PEG tube.
   -- will place on gentle IVF for insensible losses overnight
   -- Nutren 2.0 TF at 60 ml/hr
   --increase free water flushes
   .
   #. PPX:
   -- DVT PPX with fondaparenox given h/o HIT
   -- PO lansoprazole
   -- bowel regimen
   .
   #. ACCESS: PICC from prior admission (placed [**1-24**]) - DC'd and Right
   subclavian placed
   .
   #. CODE: confirmed with wife [**Name (NI) 625**], HCP, that patient is DNR; pressors
   okay.
   .
   #. DISPO: ICU for further tx and care, PT
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: fondaparenox
   Stress ulcer: lansoprazole
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);

2169-02-03 08:31:00 Physician Attending Progress Note
Chief Complaint:  Septic Shock
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-2-2**] 11:54 AM
 URINE CULTURE - At [**2169-2-2**] 12:36 PM
 FEVER - 102.1
F - [**2169-2-2**] 03:00 PM
   Mucomyst given for possible panscan given persistent fever.
   TTE read says potential aortic veggie looks same.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-2**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-3**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.7
C (98.1
   HR: 112 (94 - 117) bpm
   BP: 121/63(76) {90/49(57) - 146/89(103)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 7 (-1 - 15)mmHg
   Total In:
                                                                  2,410 mL
                                                                  1,520 mL
   PO:
   TF:
                                                                  1,333 mL
                                                                    566 mL
   IVF:
                                                                    567 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                    685 mL
   Urine:
                                                                  2,125 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (443 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, Diastolic)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L),
   Abdominal: Soft, Non-tender/non-distended, Bowel sounds present, g tube
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: Fluctuating mental status
   Labs / Radiology
   8.1 g/dL
   207 K/uL
   133 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   58 mg/dL
   110 mEq/L
   147 mEq/L
   24.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2169-1-30**]  03:48 AM
                             [**2169-1-30**]  11:05 AM
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
   WBC
   8.0
   9.3
   8.8
   11.7
   9.4
   Hct
   25.4
   24.5
   25.4
   24.5
   24.1
   Plt
   [**Telephone/Fax (3) 4351**]14
   207
   Cr
   1.9
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   TCO2
   33
   32
   33
   Glucose
   144
   136
   143
   144
   134
   146
   133
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   CXR: bibasilar infiltrates, unchanged
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 yo M complex medical history including multiple admissions over the
   last 5 months after suffering a SDH from a fall in [**Month (only) **].  Recently
   admitted for multi-drug resistent organism PNA.  Presenting with fever
   and lethargy, cnst bacteremia and mrsa + GNR pneumonia, picc line out,
   TTE shows stable possible aortic vegetations. On Vanc, colistin
   inhaler, amikacin. Called micro to speciate and check sensitivity.
    Ongoing fever, leukocytosis but subsequent blood cxs neg
   Pneumonia: Follow GNR in sputum cxs, continue abx, CT torso today, then
   bronch., if large effusion, mat tap for diagnostic reasons to r/o
   complicated parapneumonic process
   CNST bacteremia: subsequent cxs neg. Committed to endocarditis
   duration. Follow fever curve and EKG.
   Respiratory failure:  Cont pulm toilet and PS 5/5.
   hyper Na: free water flush for hypernatremia.
   Pt consult
   Rest per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-2**] 10:17 AM 75 mL/hour
   Glycemic Control:  RISS, glargine
   Lines: R subclavian
put in after cxs became neg.
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: Daughter [**Name (NI) 284**] updated daily.
   Code status: DNR (do not resuscitate), prognosis grave
   Disposition : ICU for now till mental status better and able to
   participate in wean
   Total time spent:  35 mins

2169-02-04 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   SBT last night which patient tolerated well for one hour.  Placed back
   on PS 10/5.  RSBI this morning 49.
   CT Torso done yesterday to look for occult infection given continued
   fevers.  Prelim read is negative.
   Temp to 100.5 overnight.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-3**] 08:30 AM
   Amikacin - [**2169-2-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-4**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 118 (83 - 118) bpm
   BP: 122/69(82) {90/53(62) - 137/99(108)} mmHg
   RR: 27 (13 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  5,696 mL
                                                                    373 mL
   PO:
   TF:
                                                                  1,410 mL
   IVF:
                                                                  2,566 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    290 mL
   Urine:
                                                                  1,575 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,121 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (388 - 604) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///27/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), forced expiration, no
   wheezes. +Accesory muscle use
   Abdominal: Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   224 K/uL
   8.3 g/dL
   160 mg/dL
   1.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   52 mg/dL
   108 mEq/L
   145 mEq/L
   25.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
   WBC
   9.3
   8.8
   11.7
   9.4
   12.8
   Hct
   24.5
   25.4
   24.5
   24.1
   25.7
   Plt
   [**Telephone/Fax (3) 4361**]07
   224
   Cr
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   1.8
   1.9
   TCO2
   32
   33
   Glucose
   136
   143
   144
   134
   146
   133
   169
   160
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   67 yoM with MMP most notably MDR PNA with acinetobacter/pseudomonas
   admitted with fever and AMS now MRSA PNA
   .
   # MDR PNA:  Pt with hx of resistant acinetobacter/pseudomonas with
   sputum + for MRSA
   -- CXR continues with infiltrate
   -- continue vancomycin for MRSA coverage
   -- cont amikacin 750 mg QOD; colistin 75 mg inhaled Q8 hours preceded
   by albuterol nebs
 appreciate ID recs will hold on DCing previously
   defined (21 day course started on [**1-9**]) for now given clinical worsening
   and new GNR in sputum of [**1-29**]
 will cont. awaiting sensitivities
   -- appreciate ID recs, if evidence of clinical worsening would prefer
   zosyn for further broad spectrum coverage, will start today per their
   recs
   .
   # Respiratory Failure: patient with trach, was transitioned to a rate
   after SBT with some distress on [**1-31**], now back on CPAP/PS and
   comfortable.
   - will maintain on vent for now given resp distress on trach mask and
   rapid worsening of CXR
   # Persistent Fevers
 unclear if this is secondary to ongoing known
   pneumonia or if there is another source. Will non-con torso CT him to
   look for other sources.
   .
   #.  Coag Neg Staph + Blood Cx
 1 Unclear significance however
   bottles positive with 2 spec. from PICC line.  PICC now Dc
d. R
   subclavian placed in the setting of hypotensive episode and fevers.
   - continue vancomycin
   - monitor surveillence cultures
   - TTE with question of aortic valve vegetation
  compared with old
   TTE, looks similar. Will likely receive course long enough to treat
   endocarditis regardless, so will not pursue TEE. Monitor EKG
s for
   evidence of PR prolongation.
   .
   # ? Aortic valve vegetation
 visualized on TTE of [**2-2**]
 pt with hx of
   previous endocarditis; see above discussion.
   - Continue Abx as above
   .
   # Hypernatremia
 likely due to increased insensible losses, increase
   free water flushes in TF and will give maintenance IVF
   #. MS: continues to be poor, likely toxic/metabolic encephalopathy in
   the setting of infection; head CT negative for acute processes.  ABG
   nml.  Likely [**2-6**] stressors of infection.
   -- cont to monitor
   .
   #. ACUTE RENAL FAILURE, RESOLVING: thought to be AIN from colistin from
   last admission; Cr slowly improving (2.1 now; 2.8 on discharge on
   [**1-24**]).  UOP good.
   -- renally dose meds appropriately with changing GFR
   .
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   .
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
   #. ANEMIA:  Chronic per records; guaiac negative last admission.
   Somewhat up from recent discharge.
   -- cont to trend
   -- iron studies indicate inflammatory state and borderline iron
   deficiency
   -- maintain T&S
   .
   #. DIABETES:
   -- cont Glargine 34 units QHS + SSI
   .
   #. NUTRITION: has PEG tube.
   -- will place on gentle IVF for insensible losses overnight
   -- Nutren 2.0 TF at 60 ml/hr
   --increase free water flushes
   .
   #. PPX:
   -- DVT PPX with fondaparenox given h/o HIT
   -- PO lansoprazole
   -- bowel regimen
   .
   #. ACCESS: PICC from prior admission (placed [**1-24**]) - DC'd and Right
   subclavian placed
   .
   #. CODE: confirmed with wife [**Name (NI) 625**], HCP, that patient is DNR; pressors
   okay.
   .
   #. DISPO: ICU for further tx and care, PT
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-04 10:36:00 Physician Attending Progress Note
Chief Complaint: Fever and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year old man with PMH Parkinson's,  subdural hematoma, bacteremia,
   endocarditis, s/p traceostomy and multiple recent hospital admits for
   MDR pathogen pneumonias. Admitted on [**1-28**] with fever and altered mental
   status secondary to same. Please see previous notes for details.
   24 Hour Events:
 URINE CULTURE - At [**2169-2-3**] 12:05 PM
   Tolerated trach mask yesterday
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 04:00 AM
   Vancomycin - [**2169-2-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-4**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 116 (83 - 118) bpm
   BP: 134/73(88) {90/53(61) - 146/99(108)} mmHg
   RR: 26 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  5,696 mL
                                                                    606 mL
   PO:
             TF:
                                                                  1,410 mL
   IVF:
                                                                  2,566 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    450 mL
   Urine:
                                                                  1,575 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,121 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (388 - 604) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), forced expiration, no
   wheezes. +Accesory muscle use
   Abdominal: Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   224 K/uL
   160 mg/dL
   1.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   52 mg/dL
   108 mEq/L
   145 mEq/L
   25.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2169-1-30**]  01:11 PM
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
   WBC
   9.3
   8.8
   11.7
   9.4
   12.8
   Hct
   24.5
   25.4
   24.5
   24.1
   25.7
   Plt
   [**Telephone/Fax (3) 4361**]07
   224
   Cr
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   1.8
   1.9
   TCO2
   32
   33
   Glucose
   136
   143
   144
   134
   146
   133
   169
   160
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:76.6 %, Lymph:12.2 %, Mono:3.2 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: Chest CT - RUL, RLL, LLL ggo
   Assessment and Plan
   67 with complicated PMH and multiple recent admits for MDR pneumonias
   now re-admitted to ICU with fever and altered mental status found to
   have CNS bacteremia. PNA. MRSA in sputum, chest CT has some scattered
   ground glass but no sig. consolidation. TTE with aortic valve
   vegetation but not clearly new. On broad abx coverage as per ID and
   will get 6 week course.  Appears to be near baseline mental status.
   Failing trach mask this am so will place back on PS, check mechanics.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: On tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: (fonduparinox)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-02-05 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever, respiratory failure
   24 Hour Events:
   - NIF 28
   - Placed back on PS for respiratory distress
   - Discontinued zosyn per ID recommendations
   - Afebrile x 24 hours
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-3**] 08:00 PM
   Vancomycin - [**2169-2-4**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 86 (81 - 118) bpm
   BP: 96/55(64) {91/46(36) - 146/88(103)} mmHg
   RR: 15 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,656 mL
                                                                    582 mL
   PO:
             TF:
                                                                  1,811 mL
                                                                    514 mL
   IVF:
                                                                    795 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    420 mL
   Urine:
                                                                  1,270 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,386 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (461 - 560) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 62
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///27/
   NIF: -28 cmH2O
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Comfortable
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), forced expiration, no
   wheezes.
   Abdominal: Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   198 K/uL
   7.2 g/dL
   140 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.2 mEq/L
   45 mg/dL
   109 mEq/L
   144 mEq/L
   21.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
   WBC
   9.3
   8.8
   11.7
   9.4
   12.8
   9.3
   Hct
   24.5
   25.4
   24.5
   24.1
   25.7
   21.2
   Plt
   [**Telephone/Fax (3) 4371**]
   Cr
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   1.8
   1.9
   1.8
   TCO2
   33
   Glucose
   136
   143
   144
   134
   146
   133
   169
   160
   140
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:77.4 %, Lymph:9.6 %, Mono:3.0 %,
   Eos:9.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   67 year-old male with Parkinsons
 disease, complicated medical course
   since [**8-/2168**] after fall and SDH including endocarditis and MDR PNA
   with Acinetobacter/Pseudomonas admitted with fever and altered mental
   status; found to have MRSA PNA.
   # MDR PNA:  History of resistant Acinetobacter/Pseudomonas with
   consolidation on admission and sputum positive for MRSA.
   - ID following; appreciate
   - Continue vancomycin for 14-day course for MRSA coverage
   - Continue amikacin and colistin
 can likely d/c tomorrow per ID
   - Discontinued zosyn [**2-4**]
   # Persistent fevers: Now afebrile x 24 hours.  MRSA and
   Acinetobacter/Pseudomonas PNA as above.  No other source identified on
   CT torso [**2-3**].
   - ID following; appreciate
   - Continue antibiotics as above
   - No new positive culture data
   - Continue to monitor
   # Respiratory failure: Patient on intermittent trach mask as
   outpatient.  Respiratory distress on and off during admission requiring
   intermittent ventilation, likely due to PNA, fluid overload, and
   component of ICU myopathy.
   - Will diurese with lasix for goal -1-1.5L
   - Respiratory support with ventilator as needed, otherwise trach mask
   # Anemia: Hematocrit drop from yesterday without signs or symptoms of
   active bleeding.  Guaiac negative.  Likely due to laboratory error, but
   will recheck now.
   - Transfuse hematocrit < 21
   - Guaiac all stools
   - Monitor
   # Altered mental status: Improved.  Likely toxic/metabolic
   encephalopathy in the setting of infection.  Head CT negative for acute
   processes.  ABG without acute change.
   - Treatment as above
   - Continue to monitor
   # MRSA bacteremia:
 OSH blood cultures positive from PICC line placed
   last admission
 coagulase negative Staph and presumed contaminant.
   PICC line discontinued.  TTE this admission with likely aortic valve
   vegetation, similar to prior TTE
 believed unlikely to represent new
   endocarditis.
   - ID following; appreciate
   - Continue vancomycin for a 14-day course for PNA as above
   - Monitor surveillance cultures
   - Monitor on telemetry
   # Acute renal failure: Creatinine now stable; improved from 2.8 last
   discharge [**1-24**].  Thought to be AIN from colistin from last admission,
   however, improvement on continued colistin.  Good urine output.
   - Renally dose medications and avoid nephrotoxins
   # Hypernatremia: Resolved with free water repletion.
   - Monitor
   # Parkinson
s disease: No active issues.
   - Continue Sinemet and Ropinirole
   # Hypothyroidism: No acute issues.
   - Continue Levothyroxine 88 mcg
   # Diabetes: No acute issues.
   - Continue Glargine 34 units QHS + SSI
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-5**] 05:14 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: Fondaparineux
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2169-02-05 10:18:00 Physician Attending Progress Note
Chief Complaint: Fever and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year old man with parkinson's disease and compliated recent history
   of multiple hopspial admits for HAP [**2-6**] multiply-resistent pathogens.
   Now admitted withfever and altered mental status [**2-6**] MRSA pneumona
   24 Hour Events:
   Failed trach mask yesterday. Fever resolved.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-3**] 08:00 PM
   Vancomycin - [**2169-2-4**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-5**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 102 (81 - 114) bpm
   BP: 102/59(70) {91/46(36) - 141/79(90)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,656 mL
                                                                    854 mL
   PO:
             TF:
                                                                  1,811 mL
                                                                    754 mL
   IVF:
                                                                    795 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    640 mL
   Urine:
                                                                  1,270 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,386 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 477 (461 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 62
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   NIF: -28 cmH2O
   Ve: 12.4 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   198 K/uL
   140 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.2 mEq/L
   45 mg/dL
   109 mEq/L
   144 mEq/L
   21.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2169-1-30**]  05:31 PM
                             [**2169-1-31**]  04:20 AM
                             [**2169-2-1**]  03:44 AM
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
   WBC
   9.3
   8.8
   11.7
   9.4
   12.8
   9.3
   Hct
   24.5
   25.4
   24.5
   24.1
   25.7
   21.2
   Plt
   [**Telephone/Fax (2) 4371**]
   Cr
   1.9
   1.9
   2.0
   1.9
   1.8
   1.8
   1.8
   1.9
   1.8
   TCO2
   33
   Glucose
   136
   143
   144
   134
   146
   133
   169
   160
   140
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:77.4 %, Lymph:9.6 %, Mono:3.0 %,
   Eos:9.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   67 year old man with Parkinson's and MDR pneumonia admitted with fever
   and altered mental status [**2-6**] MRSA pneumonia. Continue antibitoics as
   per ID.
   Will plan on stopping colistin/amikacin tomorrow and cont. with vanc if
   he stays afebrile. Mental status now approaching baseline. Chronic
   respiratory failure, will aim TBB negative 1.o to 1.5 L today and
   re-attemp TM. Recheck Hct and transfuse for Hct > 21. Further plans as
   per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-5**] 05:14 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: Boots(fondapaurinox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-02-06 10:02:00 Physician Attending Progress Note
Chief Complaint: MRSA pneumonia, mssa bacteria
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Defervesced over weekend. Diuresing, got a unit of blood for slow Hct
   drop, bumped appropriately. Failed TC, looked uncomfortable. Small to
   mod secretions, but good cough.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 12:00 PM
   Amikacin - [**2169-2-5**] 08:36 PM
   Vancomycin - [**2169-2-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-6**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 104 (83 - 116) bpm
   BP: 133/71(84) {90/23(54) - 160/79(93)} mmHg
   RR: 24 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,651 mL
                                                                  1,226 mL
   PO:
             TF:
                                                                  1,811 mL
                                                                    729 mL
   IVF:
                                                                    490 mL
                                                                    497 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,670 mL
                                                                  1,530 mL
   Urine:
                                                                  2,670 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -19 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (467 - 532) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 12.6 L/min
   Physical Examination
   Mental status: fluctuates
   Cardiovascular: (S1: Normal), (S2: Normal). No murmers
   Peripheral Vascular: all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) Small - mod secretions
   Abdominal: Soft, Non-tender, BS +
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   196 K/uL
   139 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.4 mEq/L
   43 mg/dL
   106 mEq/L
   144 mEq/L
   24.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2169-2-1**]  05:03 PM
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
                             [**2169-2-5**]  10:57 AM
                             [**2169-2-5**]  08:15 PM
                             [**2169-2-6**]  04:32 AM
   WBC
   11.7
   9.4
   12.8
   9.3
   10.4
   Hct
   24.5
   24.1
   25.7
   21.2
   22.4
   25.3
   24.8
   Plt
   [**Telephone/Fax (3) **]98
   196
   Cr
   2.0
   1.9
   1.8
   1.8
   1.8
   1.9
   1.8
   1.7
   Glucose
   144
   134
   146
   133
   169
   160
   140
   139
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:77.4 %, Lymph:9.6 %, Mono:3.0 %,
   Eos:9.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: chr R heidiaph elevation, other infiltrates unchanged.
   CT torso from friday: lungs improved c/w prior, no intra abd source,
   non contrast CT.
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 HYPERNATREMIA (HIGH SODIUM)
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man with Parkinson's and MDR pneumonia admitted with fever
   and altered mental status [**2-6**] MRSA pneumonia. Was on GNR coverage for
   hx of chronic colonization.
   Will plan on stopping colistin/amikacin today and cont. with vanc if he
   stays afebrile. Committed to 6 week course. Mental status now
   approaching baseline. Chronic respiratory failure, will aim TBB
   negative 1.o to 1.5 L today and re-attemp TM. Picc line consult. Plan
   to back to [**Hospital1 858**] soon. Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-6**] 02:26 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   Patient seen and examined. agree with assessment and plan.

2169-02-07 08:25:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   diuresed
   for picc line today
   talking with PMV yesterday
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-2-4**] 12:00 PM
   Amikacin - [**2169-2-5**] 08:36 PM
   Vancomycin - [**2169-2-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-7**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 104 (78 - 109) bpm
   BP: 129/71(85) {89/50(60) - 136/81(92)} mmHg
   RR: 30 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,446 mL
                                                                    711 mL
   PO:
             TF:
                                                                  1,806 mL
                                                                    628 mL
   IVF:
                                                                    640 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                    540 mL
   Urine:
                                                                  2,875 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -429 mL
                                                                    171 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (415 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 10.8 L/min
   Physical Examination
   Mental status: fluctuates
   Cardiovascular: (S1: Normal), (S2: Normal). No murmers
   Peripheral Vascular: all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) Small - mod secretions
   Abdominal: Soft, Non-tender, BS +
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   191 K/uL
   131 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   49 mg/dL
   105 mEq/L
   146 mEq/L
   25.7 %
   11.0 K/uL
        [image002.jpg]
                             [**2169-2-2**]  06:03 AM
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
                             [**2169-2-5**]  10:57 AM
                             [**2169-2-5**]  08:15 PM
                             [**2169-2-6**]  04:32 AM
                             [**2169-2-7**]  06:04 AM
   WBC
   11.7
   9.4
   12.8
   9.3
   10.4
   11.0
   Hct
   24.5
   24.1
   25.7
   21.2
   22.4
   25.3
   24.8
   25.7
   Plt
   [**Telephone/Fax (3) **]98
   196
   191
   Cr
   1.9
   1.8
   1.8
   1.8
   1.9
   1.8
   1.7
   1.8
   Glucose
   134
   146
   133
   169
   160
   140
   139
   131
   Other labs: PT / PTT / INR:16.2/44.5/1.5, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:77.4 %, Lymph:9.6 %, Mono:3.0 %,
   Eos:9.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 HYPERNATREMIA (HIGH SODIUM)
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man with Parkinson's and MDR pneumonia admitted with fever
   and altered mental status [**2-6**] MRSA pneumonia. Was on GNR coverage for
   hx of chronic colonization, continues to grow acinetobacter and
   pseudomonas, but off amikacin and colistin now. Continue 14 day course
   for MRSA pna.
   TTE shows stables thickened valves.
   Mental status now approaching baseline.
   Chronic respiratory failure, stable on TM with PMV for a few hr
   yesterday. Eosinophilia from hx of AIN from colistin.
   Keep I/O even. Free water flushes for Na 146.
   Picc line placed today.
   Plan to back to [**Hospital1 858**] soon.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-6**] 02:26 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-31**] 12:45 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : Rehab
   Total time spent:
   Patient is no longer critically ill
   Patient seen and examined. Agree with the above assessment and plan.

2169-02-08 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-2-7**] 11:07 AM
 PICC LINE - START [**2169-2-7**] 11:07 AM
   Spent time on PMV yesterday.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-5**] 08:36 PM
   Vancomycin - [**2169-2-7**] 08:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-8**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 101 (86 - 105) bpm
   BP: 106/66(75) {85/50(54) - 135/79(85)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  2,464 mL
                                                                  1,049 mL
   PO:
             TF:
                                                                  1,610 mL
                                                                    520 mL
   IVF:
                                                                    794 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    525 mL
   Urine:
                                                                  1,425 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (418 - 523) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   229 K/uL
   8.6 g/dL
   162 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   52 mg/dL
   104 mEq/L
   143 mEq/L
   26.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
                             [**2169-2-5**]  10:57 AM
                             [**2169-2-5**]  08:15 PM
                             [**2169-2-6**]  04:32 AM
                             [**2169-2-7**]  06:04 AM
                             [**2169-2-8**]  03:38 AM
   WBC
   9.4
   12.8
   9.3
   10.4
   11.0
   10.2
   Hct
   24.1
   25.7
   21.2
   22.4
   25.3
   24.8
   25.7
   26.2
   Plt
   [**Telephone/Fax (3) 4434**]96
   191
   229
   Cr
   1.8
   1.8
   1.8
   1.9
   1.8
   1.7
   1.8
   1.8
   Glucose
   146
   133
   169
   160
   140
   139
   131
   162
   Other labs: PT / PTT / INR:15.2/42.2/1.3, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:74.3 %, Lymph:12.9 %, Mono:5.2 %,
   Eos:7.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
[**2169-2-6**] 4:32 am STOOL     CONSISTENCY: SOFT
                            **FINAL REPORT [**2169-2-6**]**
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2169-2-6**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
[**2169-2-7**] 10:57 am CATHETER TIP-IV      Source: Right subclavian/MUL.
   WOUND CULTURE (Pending):
[**2169-2-7**] CXR
   Preliminary Report !! PFI !!
   Right PIC catheter appears to terminate in mid superior vena cava.
   Assessment and Plan
 67 year-old male with Parkinsons
 disease, complicated medical course
   since [**8-/2168**] after fall and SDH including endocarditis and MDR PNA
   with Acinetobacter/Pseudomonas admitted with fever and altered mental
   status; found to have MRSA PNA.
   # MDR PNA:  History of resistant Acinetobacter/Pseudomonas with
   consolidation on admission and sputum positive for MRSA.
   - ID following; appreciate recs
   - Continue vancomycin for 14-day course for MRSA coverage, picc in
   place.
   - DC amikacin/colistin for previous Amikacin/Klebsiella PNA
   - Discontinued zosyn [**2-4**]
   .
   # Persistent fevers: Now afebrile x 24 hours.  MRSA and
   Acinetobacter/Pseudomonas PNA as above.  No other source identified on
   CT torso [**2-3**]. Patient is now defervescing, borderline temp this
   morning.
   - ID following; appreciate recs
   - Continue Vanco as above
   - No new positive culture data
   - Continue to monitor
   - central line pulled today and sent for culture.
   .
   # Respiratory failure: Barriers to continued weaning have been
   secretions from his pna and his altered mental status, both of which
   are slowly improving. Tolerated passy muir valves.  Respiratory
   distress on and off during admission requiring intermittent
   ventilation, likely due to PNA, fluid overload, and component of ICU
   myopathy.
   - Respiratory support with ventilator as needed, otherwise trach mask
   .
   # Anemia: Hematocrit drop from yesterday without signs or symptoms of
   active bleeding.  Guaiac negative.  Given 1 UPRBC yest.
   - Transfuse hematocrit < 21
   - Guaiac all stools
   - Monitor
   .
   # Altered mental status: Improved.  Likely toxic/metabolic
   encephalopathy in the setting of infection.  Head CT negative for acute
   processes.  ABG without acute change.
   - Treatment as above
   - Continue to monitor
   .
   # CoNS + blood cx bacteremia:
 OSH blood cultures positive from PICC
   line placed last admission
 coagulase negative Staph and presumed
   contaminant.  PICC line discontinued.  TTE this admission with likely
   aortic valve vegetation, similar to prior TTE
 believed unlikely to
   represent new endocarditis.
   - Monitor surveillance cultures
   .
   # Acute renal failure: Creatinine now stable and even improving;
   improved from 2.8 last discharge [**1-24**].  Thought to be AIN from
   colistin from last admission, however, improvement on continued
   colistin.  Good urine output.
   - Renally dose medications and avoid nephrotoxins
   .
   # Hypernatremia: Resolved with free water repletion.
   - Monitor
   .
   # Parkinson
s disease: No active issues.
   - Continue Sinemet and Ropinirole
   .
   # Hypothyroidism: No acute issues.
   - Continue Levothyroxine 88 mcg
   .
   # Diabetes: No acute issues.
   - Continue Glargine 34 units QHS + SSI
   -- cont to monitor
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-7**] 11:26 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-2-7**] 11:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2169-02-08 10:28:00 Physician Attending Progress Note
Chief Complaint: mrsa penumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-2-7**] 11:07 AM
 PICC LINE - START [**2169-2-7**] 11:07 AM
   tolerated PMV well
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-5**] 08:36 PM
   Vancomycin - [**2169-2-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-8**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 102 (86 - 105) bpm
   BP: 110/69(78) {85/50(54) - 135/79(88)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,464 mL
                                                                  1,810 mL
   PO:
             TF:
                                                                  1,610 mL
                                                                    758 mL
   IVF:
                                                                    794 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    785 mL
   Urine:
                                                                  1,425 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                  1,025 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (458 - 523) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 7.6 L/min
   Physical Examination
   Mental status: near baseline
   Cardiovascular: (S1: Normal), (S2: Normal). No murmers
   Peripheral Vascular: all pulses present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ) Small - mod secretions
   Abdominal: Soft, Non-tender, BS +
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   229 K/uL
   162 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   52 mg/dL
   104 mEq/L
   143 mEq/L
   26.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2169-2-2**]  02:31 PM
                             [**2169-2-3**]  04:28 AM
                             [**2169-2-3**]  08:11 PM
                             [**2169-2-4**]  04:41 AM
                             [**2169-2-5**]  04:30 AM
                             [**2169-2-5**]  10:57 AM
                             [**2169-2-5**]  08:15 PM
                             [**2169-2-6**]  04:32 AM
                             [**2169-2-7**]  06:04 AM
                             [**2169-2-8**]  03:38 AM
   WBC
   9.4
   12.8
   9.3
   10.4
   11.0
   10.2
   Hct
   24.1
   25.7
   21.2
   22.4
   25.3
   24.8
   25.7
   26.2
   Plt
   [**Telephone/Fax (3) 4434**]96
   191
   229
   Cr
   1.8
   1.8
   1.8
   1.9
   1.8
   1.7
   1.8
   1.8
   Glucose
   146
   133
   169
   160
   140
   139
   131
   162
   Other labs: PT / PTT / INR:15.2/42.2/1.3, ALT / AST:27/32, Alk Phos / T
   Bili:73/0.2, Differential-Neuts:74.3 %, Lymph:12.9 %, Mono:5.2 %,
   Eos:7.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:193 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED PHYSICAL MOBILITY
 HYPERNATREMIA (HIGH SODIUM)
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   67 year old man with Parkinson's and MDR pneumonia admitted with fever
   and altered mental status [**2-6**] MRSA pneumonia. Was on GNR coverage for
   hx of chronic colonization, continues to grow acinetobacter and
   pseudomonas, but off amikacin and colistin now. Continue 14 day course
   for MRSA pna till [**2-11**]. TTE shows stables thickened valves.
   Chronic respiratory failure, stable on TM with PMV, resting on PS
   overnight. Coughing up secretions well.
   I/O: autoregulate, getting free water flushes for hypernatremia
   Picc line placed.
   Plan to back to rehab soon.
   Further plans as per resident note.
   ICU Care
   Nutrition: tfeeds
   Glycemic Control:
   Lines:
   PICC Line - [**2169-2-7**] 11:07 AM
   Prophylaxis:
   DVT: fondoparinaux
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : rehab
   Total time spent: